US04089672
A quantity (3.04 g., 0.01 mole) of 3,4,5-tribromopyrazole was dissolved in 70 ml. acetone and 2.76 g. (0.02 mole) solid anhydrous potassium carbonate was added. The mixture was heated at the reflux temperature with stirring for 10 minutes and after cooling, 1.85 g. (0.011 mole) of 2-bromoethyl acetate was added. This reaction mixture was heated at the reflux temperature for 12 hrs. cooled, filtered, and the acetone removed under reduced pressure. The resultant oil consisted of a mixture of the desired acetate and the corresponding alcohol. The mixture was dissolved in pyridine (15 ml.) and treated with acetic anhydride (3.06 g., 0.03 mole) at 0° C. This reaction mixture was kept at about 25° C. overnight, and then poured into 200 ml. of ice water. The precipitate that formed was collected on a filter, and washed with water. After drying and recrystallizing from hexane there was obtained 3,4,5-tribromopyrazole-1-ethanol acetate (ester) having a melting point at 64° to 67° C.

reactant | 3,4,5-tribromopyrazole | 0.01 mole, 3.04 g | BrC1=NNC(=C1Br)Br | C3HBr3N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl acetate | 0.011 mole | C(C)(=O)OCCBr | C4H7BrO2
reactant | acetic anhydride | 0.03 mole, 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | CC(=O)C | C3H6O
product | 3,4,5-tribromopyrazole-1-ethanol acetate | C(C)(=O)OCCN1N=C(C(=C1Br)Br)Br | C7H7Br3N2O2
